US08039450B2
6-(4-Bromo-3-formyl-phenoxy)-2-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-nicotinonitrile (3)
To a mixture of 6-chloro-2-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-nicotinonitrile (2.4 g, 8.48 mmol) and 2-bromo-5-hydroxy-benzaldehyde (1.87 g, 9.33 mmol) in DMF (25 mL) was added potassium carbonate (1.75 g, 12.69 mmol). The resulting mixture was heated at 80° C. overnight. DMF was removed under reduced pressure, the residue was diluted with EtOAc (200 mL), washed with water (20 mL) and brine (3×20 mL), dried over Na2SO4, filtered, and concentrated to give white solid. Purification was accomplished by flash chromatography on silica gel using 5-25% EtOAc/hexanes as gradient elution yielding the title compound (2.7 g, 71%) as white solid. 1H NMR (400 MHz, CDCl3) δ ppm 10.35 (s, 1H), 7.88 (d, J=8.2 Hz, 1H), 7.75 (d, J=2.7 Hz, 1H), 7.70 (d, J=8.2 Hz, 1H), 7.28 (dd, J=8.6, 3.5 Hz, 1H), 6.60 (d, J=8.2 Hz, 1H), 4.64 (s, 1H), 4.28 (t, J=4.9 Hz, 2H), 3.97-3.80 (m, 2H), 3.72-3.60 (m, 1H), 3.55-3.42 (m, 1H), 1.84-1.64 (m, 2H), 1.61-1.49 (m, 4H).

reactant | 6-chloro-2-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-nicotinonitrile | 8.48 mmol, 2.4 g | ClC1=NC(=C(C#N)C=C1)OCCOC1OCCCC1 | C13H15ClN2O3
reactant | 2-bromo-5-hydroxy-benzaldehyde | 9.33 mmol, 1.87 g | BrC1=C(C=O)C=C(C=C1)O | C7H5BrO2
reactant | potassium carbonate | 12.69 mmol, 1.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 6-(4-Bromo-3-formyl-phenoxy)-2-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-nicotinonitrile | 2.7 g, 71% | BrC1=C(C=C(OC2=NC(=C(C#N)C=C2)OCCOC2OCCCC2)C=C1)C=O | C20H19BrN2O5
